US07115740B2
A mixture of 7-chloro-1-cyclopropylmethyl-3-(4-methoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one (104 mg, 0.30 mmol) in aniline (2.0 mL) (Aldrich) was heated to 120° C. for 1.5 hours. After cooling, the reaction mixture was washed with hexanes (4×100 mL) and the crude product was purified by recrystallization from methanol-ethyl acetate to give 3-[-3-(4-methoxy-phenyl)-2-oxo-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-1-yl]-propionitrile as a white solid. (Yield 111 mg, 91.7%).

reactant | 7-chloro-1-cyclopropylmethyl-3-(4-methoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one | 0.30 mmol, 104 mg | ClC1=NC=C2C(=N1)N(C(N(C2)C2=CC=C(C=C2)OC)=O)CC2CC2 | C17H17ClN4O2
solvent | aniline | 2.0 mL | NC1=CC=CC=C1 | C6H7N
product | 3-[-3-(4-methoxy-phenyl)-2-oxo-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-1-yl]-propionitrile | COC1=CC=C(C=C1)N1C(N(C2=NC(=NC=C2C1)NC1=CC=CC=C1)CCC#N)=O | C22H20N6O2
